US05451653
Preparation of Benzylidene 2,2-Dimethoxyethylamine
To a three neck round bottom flask, equipped with a cold water condenser, 20 g of water and 21.2 g of benzaldehyde were added. The reactants were mixed using a magnetic stirrer at room temperature for 3 minutes. Aminoacetaldehyde dimethyl acetal (21 g) was added to the reaction flask in one portion, followed by vigorous stirring for 2.5 hours. The agitation was stopped and the reaction mixture was allowed to stand for at least 15 minutes. The lower aqueous layer was separated and discard. The upper layer was collected and washed with saturated sodium chloride solution. The organic layer was collected and dried over magnesium sulfate to give 20.4 g of product. 1H NMR (300 Hz, CDCl3, ppm): 8.26 (1H, s), 7.65 (2H, m), 7.40 (3H, m), 4.66 (1H, t, J=5.3 Hz), 3.77 (2H, d,d, J=5.3 Hz, J=1.5 Hz), 3.39 (6H, s).

reactant | benzaldehyde | 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Aminoacetaldehyde dimethyl acetal | 21 g | COC(CN)OC | C4H11NO2
solvent | water | 20 g | O | H2O
product | Benzylidene 2,2-Dimethoxyethylamine | 20.4 g | C(C1=CC=CC=C1)=NCC(OC)OC | C11H15NO2
